US07781478B2
A mixture of 4-iodoaniline (4.38 g, 20.0 mmol), Cs2CO3 (16.3 g, 50.0 mmol), isopropyliodide (3.0 mL, 30.0 mmol) in DMF (20 mL) was stirred in a sealed tube at 70° C. for 24 h. The mixture was cooled to room temperature and poured into water (200 mL). The organic layer was separated and washed with water and brine and purified on silica gel (CH2Cl2/hexanes, 1:1) to provide (4-iodophenyl)-isopropylamine (3.26 g, 63%).

reactant | 4-iodoaniline | 20.0 mmol, 4.38 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | Cs2CO3 | 50.0 mmol, 16.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | isopropyliodide | 30.0 mmol, 3.0 mL | C(C)(C)I | C3H7I
reactant | water | 200 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (4-iodophenyl)-isopropylamine | 3.26 g, 63% | IC1=CC=C(C=C1)NC(C)C | C9H12IN
